US06420367B1
To a solution of 2-amino-4′-chloroacetophenone hydrochloride (1.48 g) in 30 ml of dichloromethane were added 1.65 g of thiophosgene and 3.63 g of triethylamine at 0° C. and the mixture was stirred over night at room temperature. To the reaction mixture were added IN sodium hydroxide solution and methanol. The resulting mixture was stirred at room temperature and partitioned between ethyl acetate and water. The aqueous layer was neutralized by adding dil. hydrochloric acid and the resulting crystal was collected and dried to give 220 mg of 5-(4-chlorophenyl)-2-mercaptooxazole.

reactant | 2-amino-4′-chloroacetophenone hydrochloride | 1.48 g | Cl.NCC(=O)C1=CC=C(C=C1)Cl
reactant | thiophosgene | 1.65 g | C(=S)(Cl)Cl | CCl2S
reactant | triethylamine | 3.63 g | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
solvent | sodium hydroxide | [OH-].[Na+]
solvent | methanol | CO | CH4O
product | 5-(4-chlorophenyl)-2-mercaptooxazole | 220 mg | ClC1=CC=C(C=C1)C1=CN=C(O1)S | C9H6ClNOS
